US07576215B2
([4-(3-HYDROXYMETHYL-PHENYL)-8-TRIFLUOROMETHYL-QUINOLIN-3-YL]-PHENYL-METHANONE)
A solution of (3-benzoyl-8-(trifluoromethyl)quinolin-4-yl trifluoromethanesulfonate). (3.0 g, 6.0 mmol), 3-hydroxymethylphenylboronic acid (1.5 g, 10 mmol), K3PO4 (3.0 g) and Pd(PPh3)4 (0.30 g) in dioxane (30 ml) was heated to reflux. After 3 hr, the reaction was cooled and poured into water. The aqueous layer was extracted with EtOAc, dried, concentrated to give an oil which was purified by column chromatography (eluent 30% EtOAc/Hexane) to give the title compound as a foam (2.6 g, 96%); MS (ESI) m/z 407([M+H]+); 1H NMR (DMSO) δ 9.149 (s, 1H), 8.33 (d, 1H, J=7.1 Hz), 7.96 (d, 1H), 7.8 Hz), 7.80 (t, 1H, J=7.4 Hz), 7.62 (d, 2H, H=7.1 Hz), 7.55 (t, 1H, J=7.5 Hz), 7.40-7.28 (m, 5H), 7.18-7.14 (m, 1H), 5.23 (t, 1H, J=5.6 Hz), 4.41 (d, 1H, J=5.6 Hz).

reactant | 3-benzoyl-8-(trifluoromethyl)quinolin-4-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(C1=CC=CC=C1)=O)(F)F | C18H9F6NO4S
reactant | 3-hydroxymethylphenylboronic acid | 10 mmol, 1.5 g | OCC=1C=C(C=CC1)B(O)O | C7H9BO3
reactant | K3PO4 | 3.0 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | water | O | H2O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.30 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | [4-(3-HYDROXYMETHYL-PHENYL)-8-TRIFLUOROMETHYL-QUINOLIN-3-YL]-PHENYL-METHANONE | 2.6 g, 96% | OCC=1C=C(C=CC1)C1=C(C=NC2=C(C=CC=C12)C(F)(F)F)C(=O)C1=CC=CC=C1 | C24H16F3NO2
